US04141899
5-(N-isopropyl-carbamoyl)-4,5,6,7-tetrahydro-imidazo-[4,5-c]-pyridine (386/1348)
A solution of 2.46 g of 4,5,6,7-tetrahydro-imidazo-[4,5-c]-pyridine and 6.8 g of isopropyl isocyanate in 50 ml of dry dioxane is refluxed for 2 h. After evaporation to dryness, the residue is dissolved in 25 ml of methanol and treated with 12.5 ml of 2N sodium hydroxide for 2 h at room temperature. After neutralization, the solution is extracted with chloroform. Evaporation of the solvent leaves a residue (2.21 g, oil) that is treated with one equivalent of hydrogen chloride in isopropanol. After cooling, 1.7 g of 5-(N-isopropyl-carbamoyl)-4,5,6,7-tetrahydro-imidazo-[4,5-c]-pyridine hydrochloride, m.p. 190°, are collected.

reactant | 4,5,6,7-tetrahydro-imidazo-[4,5-c]-pyridine | 2.46 g | N1C=NC=2CNCCC21 | C6H9N3
reactant | isopropyl isocyanate | 6.8 g | C(C)(C)N=C=O | C4H7NO
reactant | hydrogen chloride | one equivalent | Cl | ClH
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | isopropanol | C(C)(C)O | C3H8O
product | 5-(N-isopropyl-carbamoyl)-4,5,6,7-tetrahydro-imidazo-[4,5-c]-pyridine | C(C)(C)NC(=O)N1CC2=C(CC1)NC=N2 | C10H16N4O
